US07842688B2
d) Benzyl 3-hydroxy-4-(4-hydroxyphenyl)piperidine-1-carboxylate
The mixture of 6.0 g of tert-butyl 3-hydroxy-4-(4-hydroxyphenyl)piperidine-1-carboxylate, 120 ml of methanol, 40 ml of chloroform and 20 ml of 2M HCl is stirred at 60° C. over 20 hours. The reaction mixture is cooled and the organic solvent is evaporated off. The resulting aqueous solution is admixed with stirring with 80 ml of saturated sodium hydrogencarbonate solution and 80 ml of ethyl acetate. The biphasic mixture is cooled to 0° C. and admixed slowly with 3.30 ml of benzyl chloroformate and stirred over a further 2 hours. The reaction mixture is extracted with ethyl acetate-tetrahydrofuran. The organic phases are concentrated by evaporation and the title compound is obtained as a white solid from the residue by means of crystallization (ethyl acetate-heptane). Rt=5.72.

reactant | tert-butyl 3-hydroxy-4-(4-hydroxyphenyl)piperidine-1-carboxylate | 6.0 g | OC1CN(CCC1C1=CC=C(C=C1)O)C(=O)OC(C)(C)C | C16H23NO4
reactant | methanol | 120 ml | CO | CH4O
reactant | HCl | 2M, 20 ml | Cl | ClH
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | Benzyl 3-hydroxy-4-(4-hydroxyphenyl)piperidine-1-carboxylate | OC1CN(CCC1C1=CC=C(C=C1)O)C(=O)OCC1=CC=CC=C1 | C19H21NO4
